US07977344B2
2-(Tetrahydro-2H-pyran-2-yl)ethyl methanesulfonate
2-(Tetrahydro-2H-pyran-2-yl)ethanol (465 mg) was dissolved in dry DCM (10 mL) and triethylamine (996 mg) was added. The stirred solution was cooled in an ice bath under nitrogen and methanesulphonyl chloride (359 mg) was added dropwise over 5 mins. The reaction was allowed to warm to room temperature as the ice bath melted and was left for 16 h. The mixture was then shaken with saturated sodium bicarbonate solution and the aqueous layer was extracted with DCM (×2). The combined organic extracts were washed with brine, dried using a hydrophobic frit and evaporated to give the title compound as a brown oil (718 mg).

reactant | 2-(Tetrahydro-2H-pyran-2-yl)ethanol | 465 mg | O1C(CCCC1)CCO | C7H14O2
reactant | triethylamine | 996 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 359 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(Tetrahydro-2H-pyran-2-yl)ethyl methanesulfonate | 718 mg | CS(=O)(=O)OCCC1OCCCC1 | C8H16O4S
